US08106190B2
3-Fluoropyridine hydrochloride (240 mg) and sodium carbonate (250 mg) were added to a dimethylformamide solution of 2-({5-chloro-2-[(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)carbamoyl]phenyl}amino)ethyl methanesulfonate (595 mg), followed by stirring at 40° C. for 15 hours. Water was added to the reaction liquid, followed by extraction with chloroform. The organic layer was dried with magnesium sulfate and then the solution was concentrated under a reduced pressure. The resulting residue was purified by silica gel column chromatography (basic silica gel, chloroform:methanol, 1:0 to 95:5). By treating the resulting free base with 4 M hydrogen chloride/ethyl acetate solution, 4-chloro-2-{[2-(3-fluoropyrrolidin-1-yl)ethyl]amino}-N-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)benzamide hydrochloride (156 mg) was obtained as a solid.

reactant | 3-Fluoropyridine hydrochloride | 240 mg | Cl.FC=1C=NC=CC1
reactant | sodium carbonate | 250 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | 2-({5-chloro-2-[(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)carbamoyl]phenyl}amino)ethyl methanesulfonate | 595 mg | CS(=O)(=O)OCCNC1=C(C=CC(=C1)Cl)C(NC1=CC=C2CCC(N(C2=C1)C)=O)=O | C20H22ClN3O5S
solvent | Water | O | H2O
product | 4-chloro-2-{[2-(3-fluoropyrrolidin-1-yl)ethyl]amino}-N-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)benzamide hydrochloride | 156 mg | Cl.ClC1=CC(=C(C(=O)NC2=CC=C3CCC(N(C3=C2)C)=O)C=C1)NCCN1CC(CC1)F | InChI=1S/C23H26ClFN4O2.ClH/c1-28-21-13-18(5-2-15(21)3-7-22(28)30)27-23(31)19-6-4-16(24)12-20(19)26-9-11-29-10-8-17(25)14-29;/h2,4-6,12-13,17,26H,3,7-11,14H2,1H3,(H,27,31);1H
